US07598243B2
tert-Butyl 4-[3-(ethoxycarbonyl)phenyl]piperidine-1-carboxylate (3.24 g, 9.72 mmol) was dissolved in anhydrous 4N HCl in dioxane (ca. 30 mL) and stirred at rt for 1.5 h. The reaction mixture was concentrated to give ethyl 3-piperidin-4-ylbenzoate hydrochloride as a pale yellow solid that required no further purification.

reactant | tert-Butyl 4-[3-(ethoxycarbonyl)phenyl]piperidine-1-carboxylate | 9.72 mmol, 3.24 g | C(C)OC(=O)C=1C=C(C=CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C19H27NO4
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | ca. 30 mL | O1CCOCC1 | C4H8O2
product | ethyl 3-piperidin-4-ylbenzoate hydrochloride | Cl.N1CCC(CC1)C=1C=C(C(=O)OCC)C=CC1 | InChI=1S/C14H19NO2.ClH/c1-2-17-14(16)13-5-3-4-12(10-13)11-6-8-15-9-7-11;/h3-5,10-11,15H,2,6-9H2,1H3;1H
